US06716865B1
2-(2-Methoxycyclohex-(E)-ylidenemethyl)benzoxazol-5-ol (m.p. 141-144°);
2-(4-Ethylcyclohexylidenemethyl)benzoxazol-5-ol (13C-NMR [CDCl3/CD3OD)]: 165.203, 160.259, 155.998, 145.294, 142.867, 114.835, 111.739, 109.631, 105.497, 40.269, 38.948, 35.672, 34.921, 31.423, 30.305, 12.672);

reactant | 2-(4-Ethylcyclohexylidenemethyl)benzoxazol-5-ol | C(C)C1CCC(CC1)=CC=1OC2=C(N1)C=C(C=C2)O | C16H19NO2
reactant | CDCl3 CD3OD | [2H]C(Cl)(Cl)Cl.[2H]C(O[2H])([2H])[2H]
product | 2-(2-Methoxycyclohex-(E)-ylidenemethyl)benzoxazol-5-ol | COC1\C(\CCCC1)=C\C=1OC2=C(N1)C=C(C=C2)O | C15H17NO3
